US06713474B2
b) 2-(3-Fluoro-4-phenoxyphenyl)-4,4,5,5-tetrametyl-1,3,2-dioxaborolane
The title compound was prepared in a 65% from 4-bromo-2-fluoro-1-phenoxybenzene in a similar manner to that described for the preparation 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile: 1H NMR (DMSO-d6, 400 MHz) δ 7.49(dd, 2H), 7.41(m, 2H), 7.18 (t, 1H), 7.08(d, 1H), 7.05(d, 2H), 1.30(s, 12H); RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, I mmin) tr 14.63 min.

reactant | 4-bromo-2-fluoro-1-phenoxybenzene | BrC1=CC(=C(C=C1)OC1=CC=CC=C1)F | C12H8BrFO
reactant | 2-phenoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)benzonitrile | O(C1=CC=CC=C1)C1=C(C#N)C=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H20BNO3
reactant | Hypersil | CO[C@H]1[C@@H](C[C@@H]2CN3CCC4=C([C@H]3C[C@@H]2[C@@H]1C(=O)OC)NC5=C4C=CC(=C5)OC)OC(=O)C6=CC(=C(C(=C6)OC)OC)OC | C33H40N2O9
solvent | acetonitrile | 0.05 M | C(C)#N | C2H3N
product | 2-(3-Fluoro-4-phenoxyphenyl)-4,4,5,5-tetrametyl-1,3,2-dioxaborolane | FC=1C=C(C=CC1OC1=CC=CC=C1)B1OC(C(O1)(C)C)(C)C | C18H20BFO3
